US07700655B2
(2) 1-(3-Aminophenyl)-5-phenyl-3-(trifluoromethyl)pyrazole
Acetic acid (3 mL) and ethanol (2 mL) were added to 1-(3-nitrophenyl)-5-phenyl-3-(trifluoromethyl)pyrazole (0.59 g, 1.77 mmol) and 5% palladium on carbon (0.06 g), and the mixture was hydrogenated at room temperature for 2 hours under hydrogen atmosphere. After the insoluble matter was filtered off, the residue obtained by evaporation under reduced pressure was purified by column chromatography on silica gel (n-hexane:ethyl acetate=2:1) to give the title compound (491.1 mg, 91.4%) as a white solid.

reactant | Acetic acid | 3 mL | C(C)(=O)O | C2H4O2
reactant | 1-(3-nitrophenyl)-5-phenyl-3-(trifluoromethyl)pyrazole | 1.77 mmol, 0.59 g | [N+](=O)([O-])C=1C=C(C=CC1)N1N=C(C=C1C1=CC=CC=C1)C(F)(F)F | C16H10F3N3O2
catalyst | palladium on carbon | 0.06 g | [Pd] | Pd
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 1-(3-Aminophenyl)-5-phenyl-3-(trifluoromethyl)pyrazole | 491.1 mg, 91.4% | NC=1C=C(C=CC1)N1N=C(C=C1C1=CC=CC=C1)C(F)(F)F | C16H12F3N3
